US08404869B2
2-Allyloxy-1,4-benzoquinone (10.0 g, 61 mM) and α-Methylstyrene (70 g, 0.59 M) were dissolved in 120 ml of isopropanol to give 3.6 g (14 mM) of 2-Allyl-3-hydroxy-9-methyl-1,4-phenanthrenequinone in the same manner as in Example 7.

reactant | 2-Allyloxy-1,4-benzoquinone | 61 mM, 10.0 g | C(C=C)OC=1C(C=CC(C1)=O)=O | C9H8O3
reactant | α-Methylstyrene | 0.59 M, 70 g | CC(=C)C1=CC=CC=C1 | C9H10
reactant | isopropanol | 120 ml | C(C)(C)O | C3H8O
product | 2-Allyl-3-hydroxy-9-methyl-1,4-phenanthrenequinone | 14 mM, 3.6 g | C(C=C)C=1C(C=2C=C(C3=CC=CC=C3C2C(C1O)=O)C)=O | C18H14O3
